US08030499B2
Step 191-1: Synthesis of 4-(3-bromo-4-methoxyphenyl) morpholine
Under nitrogen atmosphere, to a solution of 20.0 g of 2-bromo-4-iodoanisole in toluene (250 ml) was added morpholine (6.12 ml), 1.29 g of tri-tert-butyl phosphine, 13.5 g of sodium tert-butoxide, and 359 mg of palladium acetate (II), and the reaction mixture was stirred for two hours at 45° C. Water and EtOAc were added to the reaction solution, liquid separation was performed and the aqueous layer was extracted with EtOAc. The combined organic layer was washed with saturated brine, dried over MgSO4, then, the drying agent was separated by filtration, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography (Chromatorex NH; mobile phase: n-hexane/EtOAc=10/1 to 3/1; v/v) to obtain 3.94 g of the title compound (colorless powder).

reactant | 2-bromo-4-iodoanisole | 20.0 g | BrC1=C(C=CC(=C1)I)OC | C7H6BrIO
reactant | morpholine | 6.12 ml | N1CCOCC1 | C4H9NO
reactant | tri-tert-butyl phosphine | 1.29 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | sodium tert-butoxide | 13.5 g | CC(C)([O-])C.[Na+]
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 359 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | 4-(3-bromo-4-methoxyphenyl) morpholine | 3.94 g | BrC=1C=C(C=CC1OC)N1CCOCC1 | C11H14BrNO2
